US07504517B2
Preparation of 1-(acetylamino)-3-[2-(4-methoxyphenyl)ethyl]-4-(3,4-dimethyl-phenyl)-2-imidazolidinone:
A solution of compound 1-amino-3-[2-(4-methoxy-phenyl)ethyl]-4-(3,4-dimethylphenyl)-2-imidazolidinone hydrochloride (300 mg, 0.80 mmol) in dichloromethane (3.0 mL) is cooled in an ice bath and triethylamine (0.26 mL, 1.8 mmol) is added, followed by dropwise addition of acetyl chloride (0.068 mL, 0.96 mmol). The reaction is stirred in the cold for 45 minutes and washed with 0.1 N aqueous HCl, H2O, 10% aqueous NaHCO3, and brine. The organic phase is dried (Na2SO4) and concentrated under reduced pressure. The residue is purified over silica (2.5% methanol/dichloromethane) to afford 237 mg (78% yield) of the desired compound. 1H NMR (CDCl3) δ 9.18 (s, 1H), 7.12 (m, 3H), 7.07 (d, J=8.4 Hz, 2H), 6.83 (d, J=8.4 Hz), 4.41 (t, J=8.4 Hz, 1H), 3.91 (t, J=8.4 Hz, 1H), 3.81 (s, 3H), 3.71 (m, 1H), 3.59 (t, J=8.1 Hz, 1H), 2.94 (m, 1H), 2.80 (m, 1H), 2.67 (m, 1H), 2.29 (s, 6H), 2.09 (s, 3H). MS 382 (MH+). Anal. Calcd. For C22H27N3O3¼H2O: C, 68.46, H, 7.18; N, 10.89. Found: C, 68.72, H, 6.97; N, 10.85.

reactant | 1-amino-3-[2-(4-methoxy-phenyl)ethyl]-4-(3,4-dimethylphenyl)-2-imidazolidinone hydrochloride | 0.80 mmol, 300 mg | Cl.NN1C(N(C(C1)C1=CC(=C(C=C1)C)C)CCC1=CC=C(C=C1)OC)=O
reactant | triethylamine | 1.8 mmol, 0.26 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.96 mmol, 0.068 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
product | 1-(acetylamino)-3-[2-(4-methoxyphenyl)ethyl]-4-(3,4-dimethyl-phenyl)-2-imidazolidinone | 237 mg, 78% yield | C(C)(=O)NN1C(N(C(C1)C1=CC(=C(C=C1)C)C)CCC1=CC=C(C=C1)OC)=O | C22H27N3O3
